US08895547B2
(S)-3-[5-(3-Methoxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol
To a solution of 452 mg of 3-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenol and 148 mg of methyl iodide in THF at 0° C. was added dropwise 0.44 ml of a 2 N solution of sodium bis(trimethylsilyl)amide in THF. After stirring at constant temperature for 45 minutes and then warming up to room temperature, the reaction solution was stirred for a further 4 hours and then the conversion was checked by LCMS. A further 0.20 ml of the 2 N solution of sodium bis(trimethylsilyl)amide in THF and 114 mg of methyl iodide were added. After stirring at room temperature for 16 hours, the reaction solution was diluted with 60 ml of water, 5 ml of 5% aqueous sodium thiosulfate solution were added and the mixture was extracted twice with 30 ml of ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. To detach the protecting group, the residue was dissolved in 5 ml of methanol and, after addition of 0.5 ml of concentrated hydrochloric acid, stirred at room temperature for 1 hour. The reaction solution was diluted with 50 ml of water and extracted twice with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation, and the residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined and lyophilized. This gave the product (41.1 mg) with a molecular weight of 418.5 g/mol (C21H26N2O5S); MS (ESI): m/e=419 (M+H+).

reactant | 3-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenol | 452 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C=1C=C(C=CC1)O)(C)C | C26H38N2O5SSi
reactant | methyl iodide | 148 mg | CI | CH3I
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 114 mg | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 60 ml | O | H2O
solvent | sodium thiosulfate | 5 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | (S)-3-[5-(3-Methoxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol | 41.1 mg | COC=1C=C(C=CC1)C1S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O | C21H26N2O5S
